US08865736B2
2,6-Difluoro-3-[5-(1-methyl-1H-imidazol-2-yl)-thiazolo[5,4-b]pyridin-2-ylmethoxy]-benzamide
To a solution of 3-(5-bromo-thiazolo[5,4-b]pyridin-2-ylmethoxy)-2,6-difluoro-benzamide (0.10 g, 0.24 mmol) in 5 ml of anhydrous DMF was added 1-methyl-2-tributylstannanyl-1H-imidazole (0.120 g, 0.32 mmol) and degassed the reaction mixture for the 10 minutes. Tetrakis(triphenylphosphine) palladium (0) (0.004 g, 0.0037 mmol) was then added and the reaction mixture was heated at 120° C. for 12 h under the nitrogen atmosphere. The reaction mixture was then cooled to room temperature, added water (25 mL) and extracted the compound with ethyl acetate. The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was purified by column chromatography on silica (230-400 M) using ethyl acetate/hexane (40:60) as the eluent to provide the title compound as brick red solid (0.020 g, 20%). 1H NMR (DMSO-d6, 400 MHz): δ 3.14 (s, 3H), 5.67 (s, 2H), 7.07 (m, 1H), 7.28-7.37 (m, 2H), 7.87 (m, 2H), 8.28 (s, 1H), 8.53 (s, 1H) and 8.75 (br s, 1H). MS ES+ (402.22), HPLC (method I) Rt=12.05 min.

reactant | 3-(5-bromo-thiazolo[5,4-b]pyridin-2-ylmethoxy)-2,6-difluoro-benzamide | 0.24 mmol, 0.10 g | BrC1=CC=C2C(=N1)SC(=N2)COC=2C(=C(C(=O)N)C(=CC2)F)F | C14H8BrF2N3O2S
reactant | 1-methyl-2-tributylstannanyl-1H-imidazole | 0.32 mmol, 0.120 g | CN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | water | 25 mL | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine) palladium (0) | 0.0037 mmol, 0.004 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,6-Difluoro-3-[5-(1-methyl-1H-imidazol-2-yl)-thiazolo[5,4-b]pyridin-2-ylmethoxy]-benzamide | FC1=C(C(=O)N)C(=CC=C1OCC=1SC2=NC(=CC=C2N1)C=1N(C=CN1)C)F | C18H13F2N5O2S
